US04404214
1.44 g of 4-nitro-6-methyl-2-pyridinecarboxylic acid, 27 ml of thionyl chloride and 0.79 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is washed with ethanol, whereby 0.79 g of N-(5-tetrazolyl)-4-nitro-6-methyl-2-pyridinecarboxamide is obtained.

reactant | 4-nitro-6-methyl-2-pyridinecarboxylic acid | 1.44 g | [N+](=O)([O-])C1=CC(=NC(=C1)C)C(=O)O | C7H6N2O4
reactant | thionyl chloride | 27 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminotetrazole | 0.79 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-nitro-6-methyl-2-pyridinecarboxamide | 0.79 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)[N+](=O)[O-])C | C8H7N7O3
